US04792568
3-(1-Hydroxyhexyl)-1-(3-phenoxyphenyl)pyrrole
Grignard reagent was prepared (from 0.5 g of Mg) as described in Example 3. Then 1.8 g of 1-(3-phenoxyphenyl)pyrrole-3-aldehyde in 15 mL of ether was added. The reaction was stirred for 1 h and then poured into 300 mL of 1 N NH4Cl solution. The product was extracted with ether and the combined organic solution was washed with H2O, dried and evaporated to dryness. The crude product was purified by dry column chromatography to give 0.85 g of desired product as an oil.

reactant | 1-(3-phenoxyphenyl)pyrrole-3-aldehyde | 1.8 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)N1C=C(C=C1)C=O | C17H13NO2
reactant | NH4Cl | 1 N, 300 mL | [NH4+].[Cl-]
solvent | ether | 15 mL | CCOCC | C4H10O
product | 3-(1-Hydroxyhexyl)-1-(3-phenoxyphenyl)pyrrole | 0.85 g | OC(CCCCC)C1=CN(C=C1)C1=CC(=CC=C1)OC1=CC=CC=C1 | C22H25NO2
